US08729095B2
To a dichloromethane solution (1 ml) of tert-butyl (3R)-3-{[4′-({4-[7-chloro-3-(2-hydroxyethyl)-2-oxo-3,4-dihydroxy-1,5-naphthyridin-1(2H)-yl]piperidin-1-yl}carbonyl)-3′-fluorobiphenyl-2-yl]oxy}butanoic acid (28.3 mg) were added at room temperature triethylsilane (20.2 mg) and trifluoroacetic acid (0.5 ml). The reaction solution was stirred for 6 hours, and then concentrated under reduced pressure. The resulting residue was purified by silica gel thin layer chromatography to afford (3R)-3-{[4′-({4-[7-chloro-3-(2-hydroxyethyl)-2-oxo-3,4-dihydroxy-1,5-naphthyridin-1(2H)-yl]piperidin-1-yl}carbonyl)-3′-fluorobiphenyl-2-yl]oxy}butanoic acid (25.0 mg).

reactant | tert-butyl (3R)-3-{[4′-({4-[7-chloro-3-(2-hydroxyethyl)-2-oxo-3,4-dihydroxy-1,5-naphthyridin-1(2H)-yl]piperidin-1-yl}carbonyl)-3′-fluorobiphenyl-2-yl]oxy}butanoic acid | 28.3 mg | C(C)(C)(C)C(C(=O)O)[C@@H](C)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)N1CCC(CC1)N1C(C(C(C2=NC=C(C=C12)Cl)O)(O)CCO)=O)F | C36H41ClFN3O8
reactant | triethylsilane | 20.2 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (3R)-3-{[4′-({4-[7-chloro-3-(2-hydroxyethyl)-2-oxo-3,4-dihydroxy-1,5-naphthyridin-1(2H)-yl]piperidin-1-yl}carbonyl)-3′-fluorobiphenyl-2-yl]oxy}butanoic acid | 25.0 mg | ClC1=CN=C2C(C(C(N(C2=C1)C1CCN(CC1)C(=O)C1=C(C=C(C=C1)C1=C(C=CC=C1)O[C@@H](CC(=O)O)C)F)=O)(O)CCO)O | C32H33ClFN3O8
